US07365067B2
2-[((2S)-1′-{2-[(2R)-4-[3,5-bis(Trifluoromethyl)benzoyl]-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl}-2,3-dihydrospiro[indene-1,4′-piperidin]-2-yl)oxy]-N-(4-hydroxybutyl)-N-methylacetamide hydrochloride
The thus obtained 2-[((2S)-1′-{2-[(2R)-4-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl}-2,3-dihydrospiro[indene-1,4′-piperidin]-2-yl)oxy]-N-(4-hydroxybutyl)-N-methylacetamide was dissolved in 20 mL of ethyl acetate and the mixture was extracted with 20 mL of 1N aqueous hydrochloric acid solution. After the ethyl acetate layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The thus obtained amorphous matter was collected by filtration by adding n-hexane to obtain 1.89 g (yield: 96%) of the title compound as a white solid.

reactant | 2-[((2S)-1′-{2-[(2R)-4-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl}-2,3-dihydrospiro[indene-1,4′-piperidin]-2-yl)oxy]-N-(4-hydroxybutyl)-N-methylacetamide | FC(C=1C=C(C(=O)N2C[C@](OCC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC3(CC2)[C@H](CC2=CC=CC=C23)OCC(=O)N(C)CCCCO)C=C(C1)C(F)(F)F)(F)F | C41H45Cl2F6N3O5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-[((2S)-1′-{2-[(2R)-4-[3,5-bis(Trifluoromethyl)benzoyl]-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl}-2,3-dihydrospiro[indene-1,4′-piperidin]-2-yl)oxy]-N-(4-hydroxybutyl)-N-methylacetamide hydrochloride | 1.89 g, yield: 96% | Cl.FC(C=1C=C(C(=O)N2C[C@](OCC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC3(CC2)[C@H](CC2=CC=CC=C23)OCC(=O)N(C)CCCCO)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C41H45Cl2F6N3O5.ClH/c1-50(13-4-5-18-53)36(54)25-56-35-22-27-6-2-3-7-32(27)38(35)10-14-51(15-11-38)16-12-39(29-8-9-33(42)34(43)24-29)26-52(17-19-57-39)37(55)28-20-30(40(44,45)46)23-31(21-28)41(47,48)49;/h2-3,6-9,20-21,23-24,35,53H,4-5,10-19,22,25-26H2,1H3;1H/t35-,39-;/m0./s1
